US06632836B1
1-Carboxymethylidenyl-4-phenyl-4-(3-(2-methoxyphenyl)-3-oxo-2-azaprop-1-yl)-cyclohexane
To a solution of 1-methoxycarbonylmethylidenyl-4-phenyl-4-(3-(2-methoxyphenyl)-3-oxo-2-azaprop-1-yl)-cyclohexane (32.2 mg, 0.082 mmol) in 3.0 mL of methanol was added lithium hydroxide monohydrate (6.9 mg, 0.164 mmol) and water (1 mL) and the reaction mixture was heated at 60° C. for 8 h. To the solution was then added 2N HCl to bring the pH=3.0 and volatiles were removed by vacuum. The white solid was dissolved in CH2Cl2 and filtered through celite (to remove LiCl) and evaporated to give the title compound.

reactant | 1-methoxycarbonylmethylidenyl-4-phenyl-4-(3-(2-methoxyphenyl)-3-oxo-2-azaprop-1-yl)-cyclohexane | 0.082 mmol, 32.2 mg | COC(=O)C1CCC(CC1)(CNC(=O)C1=C(C=CC=C1)OC#C)C1=CC=CC=C1 | C24H25NO4
reactant | lithium hydroxide monohydrate | 0.164 mmol, 6.9 mg | O.[OH-].[Li+]
reactant | water | 1 mL | O | H2O
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 3.0 mL | CO | CH4O
product | 1-Carboxymethylidenyl-4-phenyl-4-(3-(2-methoxyphenyl)-3-oxo-2-azaprop-1-yl)-cyclohexane | C(=O)(O)C1CCC(CC1)(CNC(=O)C1=C(C=CC=C1)OC#C)C1=CC=CC=C1 | C23H23NO4
